US07728141B2
Step B: N-[3-chloro-6-(4-chlorophenyl)-7-(2,4-dichlorophenyl)-1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-4-yl]acetamide
To the product to Step A (100 mg) in THF (1.5 mL) and DMF (0.3 mL) was added NaH (13 mg, 60% dispersion in mineral oil) at 0° C. After about 10 minutes acetyl chloride (61.4 μL) was added. An additional portion of acetyl chloride (30 μL) was added. Analysis of the reaction solution indicated a distribution between the 4-amino, 4-N-acetamide and 4-di-N-acetamide. The imide was cleaved by adding a solution of Cs2CO3 (about 200 mg) in methanol (about 5 mL). The reaction was diluted with EtOAc and washed with saturated aqueous NaHCO3 solution and then brine. The concentrated residue was purified by flash chromatography on silica gel gradient eluted with 0-100% EtOAc in hexane affording the title compound. HPLC/MS: 506.0 (M+1), 508.0 (M+3); Rt=4.50 min.

reactant | NaH | 13 mg | [H-].[Na+]
reactant | acetyl chloride | 61.4 μL | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 30 μL | C(C)(=O)Cl | C2H3ClO
reactant | N-acetyl-N-(7-(2,4-dichlorophenyl)-6-(4-chlorophenyl)-1,2-dihydro-1,3 dimethyl-2-oxo-1,8-naphthyridinyl)acetamide | C(C)(=O)N(C(C)=O)C1=C(C(N(C2=NC(=C(C=C12)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl)C)=O)C | C26H20Cl3N3O3
reactant | Cs2CO3 | about 200 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | methanol | about 5 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | N-[3-chloro-6-(4-chlorophenyl)-7-(2,4-dichlorophenyl)-1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-4-yl]acetamide | ClC=1C(N(C2=NC(=C(C=C2C1NC(C)=O)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl)C)=O | C23H15Cl4N3O2
